US08404725B2
2.6 3-[(2-fluoro-4-iodophenyl)amino]isonicotinic acid
A mixture of 2-fluoro-4-iodo-phenylamine (20.0 g, 84.38 mmol) in anhydrous tetrahydrofuran (80 mL) was cooled to −65° C. under an inert atmosphere, prior to slow addition of 1.0 M lithium bis(trimethylsilyl)amide (255 mL, 255 mmol) at a rate that maintained the internal temperature below −55° C. After final addition, the thick slurry was stirred for 30 minutes and then treated with 3-fluoro-isonicotinic acid (8.0 g, 56.69 mmol). The mixture was stirred at room temperature for 4 days and then poured into aqueous 2.0 N sodium hydroxide (1000 mL) and ethyl acetate (250 mL). The layers were separated and the organics were again extracted with aqueous sodium hydroxide (2×1000 mL). The pH of the combined aqueous fractions was adjusted to 2 with concentrated hydrochloric acid, which effected precipitation of a solid. The material was filtered, washed with water (300 mL) and dried under high vacuum at 40° C. for 18 h to afford the product (19.05 g, 53.19 mmol, 94%) as a yellow solid.

reactant | 2-fluoro-4-iodo-phenylamine | 84.38 mmol, 20.0 g | FC1=C(C=CC(=C1)I)N | C6H5FIN
reactant | lithium bis(trimethylsilyl)amide | 255 mmol, 1.0 M, 255 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-fluoro-isonicotinic acid | 56.69 mmol, 8.0 g | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
reactant | sodium hydroxide | 2.0 N, 1000 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(2-fluoro-4-iodophenyl)amino]isonicotinic acid | 53.19 mmol, 19.05 g, 94% | FC1=C(C=CC(=C1)I)NC1=C(C(=O)O)C=CN=C1 | C12H8FIN2O2
